US07214681B2
Preparation 1: (E)-2-(4-Methanesulfonylphenyl)-3-thiophen-3-ylacrylic acid
A mixture of 3-thiophenecarboxaldehyde (1.40 mL, 15.0 mmol), (4-methanesulfonylphenyl)acetic acid (3.23 g, 15.0 mmol), and piperidine (0.45 mL, 4.5 mmol) in PhMe (21 mL) was heated under reflux with stirring for 16 h. On cooling, the PhMe was decanted off from the oily solid that had settled at the bottom of the reaction vessel. This solid was partitioned between 1M HCl (60 mL) and EtOAc (400 mL), then the aqueous phase was extracted further with EtOAc (60 mL). The combined organic layers were washed with H2O (60 mL), before being shaken with saturated aqueous Na2CO3 (100 mL). The resulting emulsion was filtered through Celite. The organic layer was extracted further with saturated aqueous Na2CO3 (2×100 mL). The combined aqueous layers were washed with Et2O (80 mL), before being filtered through Celite and carefully acidified with AcOH to adjust the pH to 4. The off-white precipitate formed was collected, washed thoroughly with H2O, and air dried to furnished the title compound: m/z (ES+)=634.2 [2M+NH4]+.

reactant | 3-thiophenecarboxaldehyde | 15.0 mmol, 1.40 mL | S1C=C(C=C1)C=O | C5H4OS
reactant | (4-methanesulfonylphenyl)acetic acid | 15.0 mmol, 3.23 g | CS(=O)(=O)C1=CC=C(C=C1)CC(=O)O | C9H10O4S
reactant | piperidine | 4.5 mmol, 0.45 mL | N1CCCCC1 | C5H11N
solvent | PhMe | 21 mL | C1(=CC=CC=C1)C | C7H8
product | (E)-2-(4-Methanesulfonylphenyl)-3-thiophen-3-ylacrylic acid | CS(=O)(=O)C1=CC=C(C=C1)/C(/C(=O)O)=C\C1=CSC=C1 | C14H12O4S2
